US09334290B2
A mixture of N-(3-bromo-2-methylphenyl)-3,5-difluoro-2-nitrobenzamide (821 mg, 2.21 mmol), NH4Cl (1.18 g, 22.1 mmol) and zinc (1.45 g, 22.1 mmol) in MeOH (10 mL) was stirred at room temperature for 60 min. The mixture was filtered and the filtrate was concentrated. The residue was suspended in DCM and washed with saturated aqueous NaHCO3. The organic phase, with an insoluble precipitate, was separated from the aqueous phase and concentrated to give 2-amino-N-(3-bromo-2-methylphenyl) -3,5-difluorobenzamide (760 mg), used without further purification. Mass spectrum m/z 341, 343 (M+H)+, 363, 365 (M+Na)+.

reactant | N-(3-bromo-2-methylphenyl)-3,5-difluoro-2-nitrobenzamide | 2.21 mmol, 821 mg | BrC=1C(=C(C=CC1)NC(C1=C(C(=CC(=C1)F)F)[N+](=O)[O-])=O)C | C14H9BrF2N2O3
reactant | NH4Cl | 22.1 mmol, 1.18 g | [NH4+].[Cl-]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | zinc | 22.1 mmol, 1.45 g | [Zn] | Zn
product | 2-amino-N-(3-bromo-2-methylphenyl) -3,5-difluorobenzamide | 760 mg | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=C(C=C1F)F | C14H11BrF2N2O
